US06603008B1
1-[4-Bromo-3-(trifluoromethyl)phenyl]-4,4,4-trifluoro-1,3-butanedione (Step 4)
To a solution of 1-[4-bromo-3-(trifluoromethyl)phenyl]-1-ethanone (1.34 g, 5.65 mmol) in THF (30 ml) was added lithium bis(trimethylsilyl)amide (1.0 M THF solution, 6.8 ml, 6.8 mmol) at −78° C. The mixture was stirred at 0° C. for 15 minutes and the solution was again cooled to −78° C. N-trifluoroacetylimidazole (1.15 g, 6.78 mmol) was added to the solution at the same temperature. The resulting mixture was stirred at −78° C. for 15 minutes and at room temperature for 2.5 hours. The reaction was quenched with 2N HCl (100 ml). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (100 ml×2). The combined organic layer was washed with brine (200 ml), dried over MgSO4, and concentrated in vacuo to give 1.80 g (88%) of the title compound as a pale yellow solid.

reactant | 1-[4-bromo-3-(trifluoromethyl)phenyl]-1-ethanone | 5.65 mmol, 1.34 g | BrC1=C(C=C(C=C1)C(C)=O)C(F)(F)F | C9H6BrF3O
reactant | lithium bis(trimethylsilyl)amide | 6.8 mmol, 1.0 M, 6.8 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-trifluoroacetylimidazole | 6.78 mmol, 1.15 g | FC(C(=O)N1C=NC=C1)(F)F | C5H3F3N2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-[4-Bromo-3-(trifluoromethyl)phenyl]-4,4,4-trifluoro-1,3-butanedione | 1.80 g, 88% | BrC1=C(C=C(C=C1)C(CC(C(F)(F)F)=O)=O)C(F)(F)F | C11H5BrF6O2
